US06710043B1
To a solution of O-tert-butyl (1-acetylpiperidin-4-yl)carbamate (0.97 g) in N,N-dimethylformamide (10 ml) was added 60% sodium hydride (0.18 g) at ambient temperature. After stirring for 40 minutes, 4-fluorobenzyl bromide (0.6 ml) was added to the reaction mixture. After additional stirring for 4 hours, the reaction mixture was poured into a mixture of ethyl acetate (50 ml) and water (10 ml). An organic phase was separated and washed with water and brine. After drying with magnesium sulfate, the solvents were removed under reduced pressure. A residue was purified by column chromatography (silica gel 100 ml, toluene:ethyl acetate=1:1 to 1:2). After crystallization from diisopropyl ether and n-hexane, O-tert-butyl N-(4-fluorobenzyl)-N-(1-acetylpiperidin-4-yl)carbamate (922 mg) was obtained.

reactant | O-tert-butyl (1-acetylpiperidin-4-yl)carbamate | 0.97 g | C(C)(=O)N1CCC(CC1)NC(OC(C)(C)C)=O | C12H22N2O3
reactant | sodium hydride | 0.18 g | [H-].[Na+]
reactant | 4-fluorobenzyl bromide | 0.6 ml | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | O-tert-butyl N-(4-fluorobenzyl)-N-(1-acetylpiperidin-4-yl)carbamate | 922 mg | FC1=CC=C(CN(C(OC(C)(C)C)=O)C2CCN(CC2)C(C)=O)C=C1 | C19H27FN2O3
